* C:\Users\rb\Documents\HSRW\Teaching\EE_EEng\REPO\EE_1.08_2_EEng_WS2022\eeng0300_Capacitors\LTspice\RC-lowpass_PWM_V001.asc
C1 V_C1 0 1µF
R1 N001 V_C1 10k
V1 N001 0 PULSE(0V {Vs} 0 1e-9s 1e-9s {Ton} {T} 50)
.tran 0 50ms 0ms .01ms
.param T = 1ms
.param Ton=duty_cycle*T
.step param duty_cycle list 0.0 0.2 0.4 0.6 0.8 1.0
.param Vs = 5V
* Not used: .param Vs = duty_cycle*5V + 1V
.backanno
.end
